US07148226B2
6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-3-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)thio]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one
The title compound was prepared analogously to Example C(40), where 3-chloro-6-cyclopentyl-6-[2-(3-fluoro-4-isopropoxyphenyl)ethyl]-4-hydroxy-5,6-dihydro-2H-pyran-2-one, where 4-bromo-2-fluoro-1-isopropoxybenzene was) was substituted in place of 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one and 7-chloro-5-(trifluoromethyl)-1H-benzimidazole-2-thiol was substituted in place of 5-chloro-1-isopropyl-1H-benzimidazole-2-thiol.

reactant | 3-chloro-6-cyclopentyl-6-[2-(3-fluoro-4-isopropoxyphenyl)ethyl]-4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C(OC(CC1O)(CCC1=CC(=C(C=C1)OC(C)C)F)C1CCCC1)=O | C21H26ClFO4
reactant | 4-bromo-2-fluoro-1-isopropoxybenzene | BrC1=CC(=C(C=C1)OC(C)C)F | C9H10BrFO
reactant | 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C(OC(CC1O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C19H22Cl2O4
reactant | 7-chloro-5-(trifluoromethyl)-1H-benzimidazole-2-thiol | ClC1=CC(=CC2=C1NC(=N2)S)C(F)(F)F | C8H4ClF3N2S
reactant | 5-chloro-1-isopropyl-1H-benzimidazole-2-thiol | ClC1=CC2=C(N(C(=N2)S)C(C)C)C=C1 | C10H11ClN2S
product | 6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-3-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)thio]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C=C(C=CC1OC(C)C)CCC1(CC(=C(C(O1)=O)SC1=NC2=C(N1C)C=CC(=C2)Cl)O)C2CCCC2 | C29H32Cl2N2O4S
